US06822100B2
n-BuLi (1.9 M, 26.3 mL, 50 mmol) was added dropwise to a solution of diisopropylamine (7.71 mL, 55 mmol) in 100 mL anhydrous THF under N2 at 0° C. After 10 minutes, the reaction was cooled to −78° C. A solution of 4-fluorobenzonitrile (6.06 g, 50 mmol) in 20 mL anhydrous THF was added dropwise, at such a rate to maintain an internal temperature of −78° C. After stirring for 1 h at this temperature, trimethyl borate (8.41 mL, 75 mmol) was added dropwise at such a rate to maintain an internal temperature of −78° C. The reaction was stirred and gradually warmed to room temperature over 16 h. The reaction was cooled to 10° C. and 25 mL 6N HCl was added. After stirring at room temperature for 4 h, the reaction was partitioned between water and ethyl acetate. The organic layer was washed three times with 100 mL 2N NaOH. The aqueous layers were pooled and adjusted to pH 6 with 6N HCl. The white solid which forms was extracted by three washes of 100 mL Ethyl acetate. The organic layers were pooled, dried over sodium sulfate, concentrated and dried under high vacuum to give 2-fluoro-5-cyanophenyl boronic acid (5.74 g, 70%). 1H NMR (500 MHz, acetone-d6) 8.08 (1H, dd, J=2.14, 5.5 Hz), 7.90 (1H, m), 7.31 (1H, t, J=8.85 Hz). Anal. calcd. for C7H5BFNO2: C, 50.97; H, 3.05; N, 8.49. Found: C, 51.19; H, 3.19; N, 8.26.

reactant | n-BuLi | 50 mmol, 1.9 M, 26.3 mL | [Li]CCCC
reactant | diisopropylamine | 55 mmol, 7.71 mL | C(C)(C)NC(C)C | C6H15N
reactant | 4-fluorobenzonitrile | 50 mmol, 6.06 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | trimethyl borate | 75 mmol, 8.41 mL | B(OC)(OC)OC | C3H9BO3
reactant | HCl | 6N, 25 mL | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-fluoro-5-cyanophenyl boronic acid | 5.74 g, 70% | FC1=C(C=C(C=C1)C#N)B(O)O | C7H5BFNO2
